US07973033B2
Synthesis of (2-chloroethoxy)-(6-chloropyridin-3-yl)acetonitrile
Trimethylsilyl cyanide (1.88 mL) and tetracyanoethylene (240 mg) were added to a solution of 5-[bis-(2-chloroethoxy)methyl]-2-chloropyridine (2.67 g) in acetonitrile (50 mL), and the reaction solution was heated under reflux for five hours. The reaction solution was left to cool to room temperature, and the solvent was evaporated under reduced pressure. Ethyl acetate was added to the resulting residue. The organic layer was washed with brine and then dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (carrier: Chromatorex NH; elution solvent: heptane:ethyl acetate=8:1) to obtain 2.04 g of the title compound. The property values of the compound are as follows.

reactant | Trimethylsilyl cyanide | 1.88 mL | C[Si](C)(C)C#N | C4H9NSi
reactant | tetracyanoethylene | 240 mg | C(#N)C(=C(C#N)C#N)C#N | C6N4
reactant | 5-[bis-(2-chloroethoxy)methyl]-2-chloropyridine | 2.67 g | ClCCOC(C=1C=CC(=NC1)Cl)OCCCl | C10H12Cl3NO2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | (2-chloroethoxy)-(6-chloropyridin-3-yl)acetonitrile | 2.04 g | ClCCOC(C#N)C=1C=NC(=CC1)Cl | C9H8Cl2N2O
